US07456200B2
4-(5-{1-[5-(3-Chloro-phenyl)-[1,2,4]oxadiazol-3-yl]-ethylsulfanyl}-4-ethyl-4H-[1,2,4]triazol-3-yl)-pyridin-2-ol
HBr (1 ml) and HOAc (1 ml) were added to 4-(5-{1-[5-(3-Chloro-phenyl)-[1,2,4]oxadiazol-3-yl]-ethylsulfanyl}-4-ethyl-4H-[1,2,4]triazol-3-yl)-2-methoxy-pyridine (9 mg, 0.02 mmol) and the reaction was stirred at 80° C. on. Saturated NaHCO3 (aq) was added to the reaction and the mixture was extracted three times with dichloromethane. The combined organic phases were dried and concentrated to give the title compound (8.5 mg, 99%). 1H NMR (CDCl3), δ (ppm): 1.37 (t, 3 H), 1.96 (d, 3 H), 4.10 (q, 2 H), 5.23 (q, 1 H), 6.80 (m, 2 H), 7.49 (t, 2 H), 7.59 (m, 1 H), 7.99 (d, 1 H), 8.11 (s, 1 H).

reactant | HBr | 1 ml | Br | BrH
reactant | 4-(5-{1-[5-(3-Chloro-phenyl)-[1,2,4]oxadiazol-3-yl]-ethylsulfanyl}-4-ethyl-4H-[1,2,4]triazol-3-yl)-2-methoxy-pyridine | 0.02 mmol, 9 mg | ClC=1C=C(C=CC1)C1=NC(=NO1)C(C)SC=1N(C(=NN1)C1=CC(=NC=C1)OC)CC | C20H19ClN6O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HOAc | 1 ml | CC(=O)O | C2H4O2
product | 4-(5-{1-[5-(3-Chloro-phenyl)-[1,2,4]oxadiazol-3-yl]-ethylsulfanyl}-4-ethyl-4H-[1,2,4]triazol-3-yl)-pyridin-2-ol | 8.5 mg, 99% | ClC=1C=C(C=CC1)C1=NC(=NO1)C(C)SC=1N(C(=NN1)C1=CC(=NC=C1)O)CC | C19H17ClN6O2S
